US06872731B2
To a cooled (−78° C.) suspension of 3-(7-methylimidazo[1,2-α]pyridin-3-yl)phenol (8.0 g, 35.7 mmol) in dry dichloromethane (80 ml) was added dry pyridine (4.2 ml, 51.9 mmol) and the mixture stirred for 15 minutes. Trifluoromethanesulfonic anhydride (4.6 ml, 43.2 mmol) was added slowly and the reaction mixture stirred for 1 hour then allowed to warm to ambient temperature for a further hour before pouring into water (100 ml). The organic phase was separated, washed with water (100 ml), brine (100 ml), water (100 ml), dried over anhydrous magnesium sulphate and concentrated in vacuo. The residue was purified by flash chromatography eluting with dichloromethane on a gradient of methanol from 3% to 5% to give trifluoromethanesulfonic acid 3-(7-methylimidazo[1,2-α]pyridin-3-yl)phenyl ester as a cream solid (7.6 g, 60%). 1H NMR (400 MHz, CDCl3) δH 6.71-6.74 (1H, m), 7.26-7.37 (2H, m), 7.45-7.47 (2H, m), 7.57-7.59 (2H, m), 7.67 (1H, s), 8.20 (1H, d, J 7); m/z (ES+) 357 (M++H).

reactant | 3-(7-methylimidazo[1,2-α]pyridin-3-yl)phenol | 35.7 mmol, 8.0 g | CC1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)O | C14H12N2O
reactant | pyridine | 51.9 mmol, 4.2 ml | N1=CC=CC=C1 | C5H5N
reactant | Trifluoromethanesulfonic anhydride | 43.2 mmol, 4.6 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid 3-(7-methylimidazo[1,2-α]pyridin-3-yl)phenyl ester | 7.6 g, 60% | CC1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)OS(=O)(=O)C(F)(F)F | C15H11F3N2O3S
